US07994185B2
To the solution of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide (110 mg, 0.211 mmol) in toluene (2 ml) was added ethanol amine (64.5 mg, 1.056 mmol) and the reaction mixture heated in MW for 30 min at 140° C. Methanol (1 ml) was added and solution was purified by chromatography (100% EtOAc to 20% MeOH:EtOAc). N-{2-fluoro-3-[5-{2-[(2-hydroxyethyl)amino]-4-pyrimidinyl}-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide (53 mg, 43.7%) was isolated as white powder. 1H NMR (400 MHz, DMSO-d6) ppm 1.74 (qd, J=12.19, 4.48 Hz, 2H), 2.01 (dd, J=12.66, 2.12 Hz, 2H), 3.21-3.34 (m, 4H), 3.42-3.57 (m, 4H), 3.93 (dt, J=9.58, 2.22 Hz, 2H), 4.67 (t, J=6.00 Hz, 1H), 6.66 (t, J=1.29 Hz, 1H), 7.17 (t, J=5.75 Hz, 1H), 7.24-7.40 (m, 2H), 7.46 (td, J=7.69, 1.99 Hz, 1H), 7.82 (t, J=1.80 Hz, 1H), 8.08 (d, J=5.18 Hz, 1H), 8.28 (t, J=1.20 Hz, 1H), 10.31 (s, 1H); MS (ESI): 546.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide | 0.211 mmol, 110 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)F | C22H18ClFN4O4S2
reactant | ethanol amine | 1.056 mmol, 64.5 mg | C(O)CN | C2H7NO
reactant | Methanol | 1 ml | CO | CH4O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | N-{2-fluoro-3-[5-{2-[(2-hydroxyethyl)amino]-4-pyrimidinyl}-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | 53 mg, 43.7% | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NCCO)C1CCOCC1)NS(=O)(=O)C1=COC=C1 | C24H24FN5O5S2
